US04751319
3-tert-Butyl-2-chloro-5-tetradecyl-1,3,2-oxazaphospholidine (intermediate for Examples 19 and 20)
To a CO2 (s)/acetone cooled solution of 10.5 ml (0.077 mol) of phosphorus trichloride in 150 ml of dichloromethane is added dropwise a solution of 24.0 g (0.077 mol) of 1-tert-butylamino-2-hexadecanol and 21.3 ml (0.153 mol) of triethylamine in 37.5 ml of dichloromethane over a five minute period. When the addition is completed, the cooling bath is replaced with a 50° C. water bath for 1 hour. This is then stirred at room temperature for 16 hours.

reactant | CO2 | C(=O)=O | CO2
reactant | phosphorus trichloride | 0.077 mol, 10.5 ml | P(Cl)(Cl)Cl | Cl3P
reactant | 1-tert-butylamino-2-hexadecanol | 0.077 mol, 24.0 g | C(C)(C)(C)NCC(CCCCCCCCCCCCCC)O | C20H43NO
reactant | triethylamine | 0.153 mol, 21.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 37.5 ml | ClCCl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 3-tert-Butyl-2-chloro-5-tetradecyl-1,3,2-oxazaphospholidine | C(C)(C)(C)N1P(OC(C1)CCCCCCCCCCCCCC)Cl | C20H41ClNOP
